US08530504B2
(7b) tert-Butyl{3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-2-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate
To a dioxane (15 mL) solution of tert-butyl{2-bromo-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate (323 mg, 0.612 mmol) were added 2M dimethyl zinc (0.612 mL, 1.22 mmol) and bis(tri-tert-butylphosphine)palladium(0) (15.6 mg, 0.031 mmol), and the mixture was heated at 60° C. for one hour. After the reaction was completed, the solvent was directly distilled off under reduced pressure. The residue was purified by silica gel column chromatography (a mixed solvent of n-heptane and ethyl acetate: n-heptane/ethyl acetate=1/1) to obtain the title compound (205 mg, 0.442 mmol).

reactant | dioxane | 15 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl{2-bromo-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate | 0.612 mmol, 323 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2C2=C(C=C(C=C2OC)COC)OC)Br)OC)=O | C21H26BrN3O6S
reactant | dimethyl zinc | 1.22 mmol, 2M, 0.612 mL | C[Zn]C
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.031 mmol, 15.6 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | tert-Butyl{3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-2-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate | 0.442 mmol, 205 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2C2=C(C=C(C=C2OC)COC)OC)OC)OC)=O | C22H29N3O7S
